US09029361B2
Part F. Preparation of tert-butyl (8S,9aR)-8-hydroxy-5-oxohexahydro-1H-pyrrolo[1,2-a][1,4]diazepine-2(3H)-carboxylate
tert-Butyl (8S,9aR)-8-[(4-nitrobenzoyl)oxy]-5-oxohexahydro-1H-pyrrolo[1,2-a][1,4]diazepine-2(3H)-carboxylate (156 mg, 0.372 mmol, 1.0 equivalent, Part E) was dissolved in methanol (3 mL). Potassium carbonate (20 mg, 0.145 mmol, 0.39 equivalent) was added and stirring was continued at room temperature for 30 minutes. The solvent was removed in vacuo, and the crude material was loaded onto a 12-g silica column with dichloromethane and eluted with 0-5% methanol:dichloromethane over 15 minutes, held at 5% methanol:dichloromethane for five minutes, then eluted with 10% methanol:dichloromethane for 10 minutes to afford the titled compound (65 mg, 0.240 mmol, 64.6% yield over two steps) as a white solid. 1H NMR (300 MHz, CDCl3) δ ppm 4.44 (t, J=3.7 Hz, 1H), 4.39-3.86 (m, J=79.8 Hz, 2H), 4.06 (dt, J=17.5, 8.9 Hz, 1H), 3.83 (dd, J=13.2, 2.3 Hz, 1H), 3.51 (dd, J=13.2, 3.7 Hz, 1H), 3.35-2.96 (br s, 1H), 2.74-2.46 (m, 3H), 2.24 (dd, J=13.2, 6.0 Hz, 1H), 1.74 (ddd, J=12.0, 9.0, 3.0 Hz, 1H), 1.48 (s, 9H); MS (ESI+) m/z 270.9 (M+H)+.

reactant | tert-Butyl (8S,9aR)-8-[(4-nitrobenzoyl)oxy]-5-oxohexahydro-1H-pyrrolo[1,2-a][1,4]diazepine-2(3H)-carboxylate | 0.372 mmol, 156 mg, 1.0 equivalent | [N+](=O)([O-])C1=CC=C(C(=O)O[C@H]2C[C@H]3N(C(CCN(C3)C(=O)OC(C)(C)C)=O)C2)C=C1 | C20H25N3O7
reactant | Potassium carbonate | 0.145 mmol, 20 mg, 0.39 equivalent | C([O-])([O-])=O.[K+].[K+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | 3 mL | CO | CH4O
product | tert-butyl (8S,9aR)-8-hydroxy-5-oxohexahydro-1H-pyrrolo[1,2-a][1,4]diazepine-2(3H)-carboxylate | 0.240 mmol, 65 mg, 64.6% yield | O[C@H]1C[C@H]2N(C(CCN(C2)C(=O)OC(C)(C)C)=O)C1 | C13H22N2O4
